US07067702B2
Synthesis of 4-vinylbenzoylacetone:
Dry tetrahydrofuran (10 mL), sodium hydride (1.7 g, 70 mmol), and 4-vinyl-methylbenzoate (8.0 g, 49 mmol) were placed in a flame dried, three-necked, round bottomed flask equipped with a reflux condenser, nitrogen inlet, addition funnel and magnetic stir bar. Dry tetrahydrofuran (5 mL) and dry acetone (4.3 mL, 59 mmol) was added dropwise to the refluxing mixture containing 4-vinyl-methylbenzoate. The mixture was allowed to reflux for an additional two hours before allowed to cool to room temperature. Concentrated hydrochloric acid (1 mL) was added, the mixture was diluted with ether (50 mL) and water (50 mL), and the mixture was made acidic by a further addition of concentrated hydrochloric acid. The aqueous phase was rinsed with ether (2×50 mL), and the combined organic phase was washed with 1 M sodium hydroxide (3×50 mL). The combined alkali phases were rinsed with pentane. The alkali solution was acidified with concentrated hydrochloric acid, which formed a precipitate. The precipitate was removed from the aqueous phase by rinsing with ether (2×50 mL), and the combined organic phases were rinsed with saturated sodium bicarbonate solution (3×50 mL). The organic phase was dried with magnesium sulfate for 16 hours before filtration and isolation of the yellow material (4 g, 43% yield). 1H-NMR (200 MHz, 25° C., CDCl3): δ 16.12 (s, 1H), 7.83 (d, 2H), 7.45 (d, 2H), 6.70 (dd, 1H), 6.17 (s, 1H), 5.82 (d, 1H), 5.35 (d, 1H), 2.20 (s, 3H).

reactant | sodium hydride | 70 mmol, 1.7 g | [H-].[Na+]
reactant | 4-vinyl-methylbenzoate | 49 mmol, 8.0 g | C(=C)C1=CC(=C(C(=O)[O-])C=C1)C
reactant | acetone | 59 mmol, 4.3 mL | CC(=O)C | C3H6O
reactant | hydrochloric acid | 1 mL | Cl | ClH
reactant | magnesium sulfate | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | ether | 50 mL | CCOCC | C4H10O
solvent | water | 50 mL | O | H2O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 4-vinylbenzoylacetone | 4 g, 43% yield | C(=C)C1=CC=C(C(=O)CC(C)=O)C=C1 | C12H12O2
